US08492405B2
tert-butyl 4-(benzylthio)-4-(nitromethyl)piperidine-1-carboxylate
A mixture of tert-butyl 4-oxopiperidine-1-carboxylate (1.00 g), benzyl mercaptan (2.48 g), nitromethane (3.05 g), ethylenediamine (0.3 g) and acetonitrile (15 mL) was heated under reflux for 8 hr. The reaction solution was concentrated under, reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9-3:1) to give the title compound (1.3 g, yield 71%) as colorless crystals.

reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 1.00 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | benzyl mercaptan | 2.48 g | C(C1=CC=CC=C1)S | C7H8S
reactant | nitromethane | 3.05 g | [N+](=O)([O-])C | CH3NO2
reactant | ethylenediamine | 0.3 g | C(CN)N | C2H8N2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | tert-butyl 4-(benzylthio)-4-(nitromethyl)piperidine-1-carboxylate | 1.3 g, yield 71% | C(C1=CC=CC=C1)SC1(CCN(CC1)C(=O)OC(C)(C)C)C[N+](=O)[O-] | C18H26N2O4S
